US05134152
2-(4-Chlorophenyl)-3,4-dimethyl-2-methanesulfonyloxymethyloxetane
0.13 ml (1.68 mmole) of methanesulfonyl chloride, followed by 0.24 ml (1.708 mmole) of triethylamine were added at 0° C. to a solution of 123 mg (0.543 mmole) of 2-(4-chlorophenyl)-3,4-dimethyl-2-hydroxymethyloxetane in 10 ml of methylene chloride, and the resulting mixture was stirred for 4 hours, during which time the reaction temperature was allowed to rise to room temperature. At the end of this time, a saturated aqueous solution of sodium hydrogencarbonate was added to the mixture, which was then extracted with methylene chloride. The extract was dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography through silica gel, eluted with a 10:1 by volume mixture of hexane and ethyl acetate, to afford 107 mg (yield 65%) of the title compound.

reactant | methanesulfonyl chloride | 1.68 mmole, 0.13 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.708 mmole, 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chlorophenyl)-3,4-dimethyl-2-hydroxymethyloxetane | 0.543 mmole, 123 mg | ClC1=CC=C(C=C1)C1(OC(C1C)C)CO | C12H15ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Chlorophenyl)-3,4-dimethyl-2-methanesulfonyloxymethyloxetane | 107 mg, yield 65% | ClC1=CC=C(C=C1)C1(OC(C1C)C)COS(=O)(=O)C | C13H17ClO4S
